US05801170
2-(2-Pyrrolidin-1-ylethoxy)-4-nitroanisole
A stirred solution of 2-methoxy-5-nitrophenol (1.5 g, 0.0088 mole), 1-pyrrolidineethanol (1.03 ml, 0.0088 mole) and triphenylphosphine (2.4 g, 0.0088 mole) in TBF (50 ml) at room temperature under argon was treated with diethyl azodicarboxylate (1.4 ml, 0.0088 mole). The reaction mixture was stirred for 1 h, then concentrated in vacuo and the residue treated with 2M HCl acid (50 ml) and ethyl acetate (50 ml). The mixture was shaken well, then the acid layer separated, washed with ethyl acetate (2×30 ml) and then basified by addition of potassium carbonate. The basic mixture was extracted with ethyl acetate (2×50 ml) and the combined extract dried (Na2SO4) and concentrated in vacuo to afford the title compound as a yellow oil (1.43 g, 61%).

reactant | 2-methoxy-5-nitrophenol | 0.0088 mole, 1.5 g | COC1=C(C=C(C=C1)[N+](=O)[O-])O | C7H7NO4
reactant | 1-pyrrolidineethanol | 0.0088 mole, 1.03 ml | N1(CCCC1)CCO | C6H13NO
reactant | triphenylphosphine | 0.0088 mole, 2.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.0088 mole, 1.4 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | 2-(2-Pyrrolidin-1-ylethoxy)-4-nitroanisole | 1.43 g, 61% | N1(CCCC1)CCOC1=C(C=CC(=C1)[N+](=O)[O-])OC | C13H18N2O4
